US06809110B2
In analogy to the procedure described in example 10 d], [rac]-2-ethoxy-3-{4-[2-(4-isopropyl-phenyl)-thiazol-4-ylmethoxy]-2-methyl-phenyl}-propionic acid ethyl ester was treated with LiOH to obtain [rac]-2-ethoxy-3-{4-[2-(4-isopropyl-phenyl)-thiazol-4-ylmethoxy]-2-methyl-phenyl}-propionic acid as colorless oil.

reactant | [rac]-2-ethoxy-3-{4-[2-(4-isopropyl-phenyl)-thiazol-4-ylmethoxy]-2-methyl-phenyl}-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)OCC=1N=C(SC1)C1=CC=C(C=C1)C(C)C)C)OCC)=O | C27H33NO4S
reactant | LiOH | [Li+].[OH-]
product | [rac]-2-ethoxy-3-{4-[2-(4-isopropyl-phenyl)-thiazol-4-ylmethoxy]-2-methyl-phenyl}-propionic acid | C(C)OC(C(=O)O)CC1=C(C=C(C=C1)OCC=1N=C(SC1)C1=CC=C(C=C1)C(C)C)C | C25H29NO4S
